US07446204B2
A mixture of 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl)) phenylamine (54 mg, 0.126 mmol), p-nitrophenyl chloroformate (51 mg, 0.25 mmol) and pyridine (31 μL, 0.378 mmol) in dry CH2Cl2 (3 mL) was heated at reflux for 5 h. The reaction mixture was concentrated in vacuo and the residue was triturated with pentane to give as N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl](4-nitrophenoxy)carboxamide as a white solid (93.2 mg, quantitative crude yield). LCMS (method B): 2.77 min, 592.0 (M+H)+. A suspension of N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl](4-nitrophenoxy) carboxamide 43.2 mg, 0.073 mmol) and N,N,N-trimethyl ethylenediamine (20 μL, 0.146 mmol) in dioxane (1.5 mL) was heated in the microwave at 100° C. for 10 min. The reaction mixture was concentrated in vacuo to yield the crude product, which was purified by HPLC (5-95% acetonitrile containing 0.1% trifluoroacetic acid, over 30 min) then freeze dried to give the impure trifluoroacetate salt. This was dissolved in aqueous hydrochloric acid (1 M, 3 mL), and concentrated in vacuo. The residue was partitioned between ethyl acetate (30 mL) and aqueous saturated NaHCO3 (saturated, 30 mL) and the organic layer was washed with aqueous NaCl (saturated, 30 mL) then dried over MgSO4 and concentrated in vacuo to give the impure free base. This was further partitioned between aqueous hydrochloric acid (1 M, 30 mL) and ethyl acetate (30 mL). The aqueous layer was basified with aqueous saturated NaHCO3 then extracted with ethyl acetate (30 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to yield the purified free base. To this was added hydrochloric acid (1 M, 3 mL) and the resulting mixture was concentrated in vacuo and freeze dried to give {[2-(dimethylamino)ethyl]methylamino}-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide dihydrochloride (31 mg, 67% yield) as a white solid. LCMS (method A): 6.60 min, 555.3 (M+H)+; 1H NMR (CD3OD) δ 7.60 (m, 2H), 7.40 (td, J=10.4, 7.5 Hz, 1H), 7.34 (d, J=2.2 Hz, 1H), 7.25 (dt, J=10.8, 7.8 Hz, 1H), 7.17 (1H, dd, J=8.2, 2.2 Hz, 1H), 7.09 (m, 3H), 4.34 (s, 2H), 3.73 (t, J=5.7 Hz, 2H), 3.59 (m, 2H), 3.35 (t, J=5.7 Hz, 2H), 3.18 (m, 2H), 3.11 (m, 4H), 2.98 (s, 6H), 2.32 (s, 3H), 2.05 (m, 4H).

reactant | 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl)) phenylamine | 0.126 mmol, 54 mg | CC1=C(C=C(C=C1)N)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C25H25F3N2O
reactant | p-nitrophenyl chloroformate | 0.25 mmol, 51 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.378 mmol, 31 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl](4-nitrophenoxy)carboxamide | CC1=C(C=C(C=C1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C32H28F3N3O5
